US04118561
7-(Phenylmethyl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine
A suspension of 13.95 g. 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine in 600 ml. dry dimethylformamide is stirred under nitrogen as 3.70 g. ca. 50% sodium hydride-mineral oil dispersion is added carefully. After stirring for 1.5 hours, a solution of 9.30 g. benzyl chloride (8.5 ml.) in 20 ml. dry dimethylformamide is added during ca. 10 min. Stirring is continued for 5 hours and then 120 ml. gl. acetic acid is added to the reaction mixture. After removal of solvent (in vacuo), the residue is stirred thoroughly with excess aqueous potassium carbonate solution and filtered. The solids are collected, washed with water, and dried. The crude product is dissolved in 1.4 l. boiling methanol, treated with charcoal, and filtered through Celite. The filtrate is concentrated to ca. 125 ml. and chilled. The crystalline solid is collected, washed with acetone, and again recrystallized from methanol to afford 11.76 g. title compound, m.p. 228°, NMR (dDMSO): δ 5.53 (singlet, N-CH2C6H5), 7.12 (doublet, J-3Hz, 9H), 7.23 (doublet, 8Hz, 5 or 6H), 7.63 (doublet, J=3Hz, 8H), 7.77 (doublet, J=9Hz, 5 or 6H) p.p.m.; λmax95%EtOH 235 (ε 26,900), 260 (ε 28,620), 317 (ε 9,640), 345 sh (ε 7,520) nm; λmin95%EtOH 243 (ε 26,020), 281 (ε 2,430) nm.

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | 8.5 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(Phenylmethyl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C1(=CC=CC=C1)CN1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C17H15N5
